US05208240
Mix diethyl methyl-(4-acetamido)benzylmalonate (5.01 g, 15.6 mmol) and 2N hydrochloric acid (65 mL) and heat at reflux for several hours. Cool to room temperature, basify with solid hydrogen carbonate and extract into ethyl ether (3×). Dry (MgSO4) and evaporate the solvent in vacuo to give diethyl methyl-(4-amino)benzylmalonate.

reactant | diethyl methyl-(4-acetamido)benzylmalonate | 15.6 mmol, 5.01 g | CC(C(=O)OCC)(C(=O)OCC)CC1=CC=C(C=C1)NC(C)=O | C17H23NO5
reactant | hydrochloric acid | 2N, 65 mL | Cl | ClH
reactant | hydrogen carbonate | C(O)([O-])=O
product | diethyl methyl-(4-amino)benzylmalonate | CC(C(=O)OCC)(C(=O)OCC)CC1=CC=C(C=C1)N | C15H21NO4
